US05123951
The 2,2-dimethyl-N-(4,5-dichloro-2-methoxyphenyl)propanamide (3.70 grams, 0.01 mole) prepared in Part B was dissolved in ethanol: 12N HCl (1:1), the mixture heated under reflux overnight and then freed of volatiles under rotary evaporation. Partition between 2N HCl and dichloromethane gave and acid-soluble fraction which was worked up to give 1.1 grams (0.01 mole) or pure 4,5-dichloro-2-methoxyaniline as determined by thin layer chromatographic analysis. The dichloromethane fraction from above was freed of solvent giving starting material which was again refluxed overnight with ethanol: 12N HCl and worked up to given an additional 1.2 grams (0.01 mole) of pure 4,5-dichloro-2-methoxyaniline as determined by thin layer chromatographic analysis. NMR analysis of the product indicated the following:

reactant | 2,2-dimethyl-N-(4,5-dichloro-2-methoxyphenyl)propanamide | 0.01 mole, 3.70 grams | CC(C(=O)NC1=C(C=C(C(=C1)Cl)Cl)OC)(C)C | C12H15Cl2NO2
reactant | HCl | 12N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4,5-dichloro-2-methoxyaniline | ClC1=CC(=C(N)C=C1Cl)OC | C7H7Cl2NO
